Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / tree nuts
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who presents with nausea vomiting as well as
recent dysuria. Vomiting persistnet x12 days. Twice daily over
that period. No fever, chills, rigors. No diarrhea constipation.
No ab pain. No sick contacts, recent travel. Lives in ___
environment. Today's complains of weakness and lightheadedness
with ambulation. Reports 10lb of wt loss. Only tolerating small
bites and sips. Initially started after a night in which pt 
drank
5 shots of liquor, which she does occasionally; drinks ___
monthly on the weekends. Usually tolerates this without 
vomiting.
Also takes Ibuprofen and Excedrin up to 3x weekly for migraines,
but had not been taking more prior to this episode. Pt also has
noted lactose intolerance in the past (no medical w/u); takes
lactaid at home; day prior to current episode reports eating
especially rich meal.

This is the third such episode of intractable vomiting over the
past year. Others reportedly resolved after brief hospital stay
with Zofran/Ativan. No infectious processes suspected in those
cases. No specific relationship to menses. No obvious triggers.
Today in GI clinic, with plan to sent to ___ to admit/pursue
endoscopy. Per review of GI note outpatient today, concern for
n/v related to marijuana vs migraines. 

Pt takes OCP but has been missing d/t nausea. Had period about a
week ago I/s/o missed OCP. Reports 3 days of flow.

Re dysuria: 8 days ago went to ___. At that time
Dx of UTI and given PO abx, but unable to take these d/t n/v/.
___ days ago renewed n/v after brief relief and now with flank
pain. 2 days ago went to PCP, with ___ pyelo. Again got PO abx
and was unable to tolerate. Took no more than 4 doses of abx but
thinks she vomited most of them. Currently no dysuria (last was 
2
days ago), and no flank pain since ___

In the ___
VS: afebrile, init tachy to 112, down to ___. BP, O2 stable
Exam: NAD, lungs CTA, belly benign
Labs: reviewed, notable for wbc 9, bicarb 26, AG 16, UA cloudy
with mod WBC, tr prot, ketones 40, few bacteria, 9 epithelial
cells; blood cx x2 drawn
Imaging: US abdomen without hydro or stone
Received: 2L NS, CTX 1g, zofran
Consults: none
 
Past Medical History:
migraines
 
Social History:
___
Family History:
(per prior documentation) Family history notable for mother with 
migraines and maternal aunt with cyclic vomiting syndrome at a 
young age. 
 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM. Negative ___
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs. ___ strength UE, ___, light tough
intact throughout. CN2-12 intact.
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
VS: ___ ___ Temp: 98.3 PO BP: 108/68 R Lying HR: 58 RR: 16
O2 sat: 97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
Gen - sitting up in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 06:00PM BLOOD WBC-9.3 RBC-4.92 Hgb-14.4 Hct-41.4 MCV-84 
MCH-29.3 MCHC-34.8 RDW-12.4 RDWSD-37.8 Plt ___
___ 06:00PM BLOOD Glucose-85 UreaN-12 Creat-0.8 Na-138 
K-4.0 Cl-96 HCO3-26 AnGap-16
___ 06:00PM BLOOD ALT-18 AST-13 AlkPhos-45 TotBili-0.6
___ 05:55AM BLOOD Calcium-9.1 Phos-4.5 Mg-2.2
___ 06:00PM BLOOD Lipase-51
___ 07:39PM BLOOD Lactate-1.5

DISCHARGE
___ 05:55AM BLOOD WBC-8.3 RBC-4.49 Hgb-13.1 Hct-39.1 MCV-87 
MCH-29.2 MCHC-33.5 RDW-12.3 RDWSD-39.2 Plt ___
___ 07:10AM BLOOD Glucose-109* UreaN-6 Creat-0.7 Na-140 
K-3.5 Cl-100 HCO3-27 AnGap-13

TTG pending

REPORTS

EGD ___ - see OMR 

GI Pathology 
1. Gastroesophageal junction, biopsy:
-Cardiac-type mucosa within normal limits.
-Squamous mucosa is not present.
-No intestinal metaplasia identified.
2. Antrum, biopsy:
-Antral and fundic mucosa with reactive change and focal
intestinal metaplasia.
3. Duodenum, second part, biopsy:
-Duodenal mucosa within normal limits.

Renal US ___
Normal renal ultrasound, specifically no evidence of 
hydronephrosis or
nephrolithiasis.

 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
migraines, prior recurrent episodes of nausea and vomiting, 
admitted ___ with persistent episode of nausea and 
vomiting, thought to be consistent with cyclic vomiting 
syndrome, with potential triggers by alcohol, marijuana or 
NSAIDs, seen by GI service and status post endoscopy without 
clear abnormality, treated conservatively with improvement, able 
to tolerate a regular diet and be discharged home

# Nausea and vomiting secondary to 
# Suspected cyclic vomiting syndrome
Patient presented with persistent nausea and vomiting for 2 
weeks.  Workup with normal liver panel, venous lactate.  Renal 
ultrasound without acute process.  Patient without symptoms of 
obstruction.  Patient was seen by GI consult team who 
recommended EGD, which showed antral erythema.  GI consult 
service felt cyclic vomiting was most likely cause, with 
potential contributing factors being marijuana, alcohol, NSAIDs, 
or psychosocial stress. Given absence of associated migraine 
symptoms, felt unlikely to be abdominal migraines.  Patient was 
treated conservatively with NPO, IV fluids, symptom  management, 
with improvement in her symptoms and ability to tolerate regular 
diet.  She was counseled on avoiding the potential triggers 
noted above. TTG sent, pending. 

# Abnormal Biopsy Stomach
Biopsy showed "Antral and fundic mucosa with reactive change and 
focal intestinal metaplasia." Per discussion with GI consult 
service, they recommended stool antigen and ___ year EGD 
follow-up.  Discussed with patient regarding these results, as 
well as recommendations from GI service. 

# Recent UTI
Patient with recent prescriptions for UTI, with concern for 
possible pyelonephritis.  After review of her ___ records and 
discussing the symptoms further with her, it was felt that 
recent pyelonephritis was unlikely, and more likely she had 
cystitis that had resolved. Urine culture with pan sensitive e 
coli from ___ at ___. Completed an appropriate course of 
antibiotics for UTI without any additional GU symptoms. The risk 
of continued antibiotics was felt to outweigh the potential 
benefit. 

# Migraines
No migraines this admission.  Given recommendation to avoid 
NSAIDs as above, would consider outpatient recommendations re: 
alternative prophylaxis and/or abortive medications (e.g. 
Tylenol).  

# Contraception: 
Patient initially unable to tolerate taking this in setting of 
her nausea and vomiting above.  Counselled regarding need for 
back-up contraception. 

Transitional issues 
- Discharged home
- Counseled re: avoidance of NSAIDs, alcohol, marijuana; given 
this, and patient prior use of NSAIDs for migraine control, 
would consider making alternate prophylaxis and/or abortive 
migraine therapy recommendations as outpatient 
- EGD biopsy of antrum showed "Antral and fundic mucosa with 
reactive change and focal intestinal metaplasia"; per GI, 
recommended for repeat EGD in ___ year; would consider Hpylori 
stool antigen testing and general GI referral as outpatient
Ms. ___ is a ___ female with migraines and recurrent 
prolonged episodes of persistent nausea and vomiting that have 
required hospitalization, here with persistent nausea and 
vomiting and with recent diagnosis of UTI. Suspected to have
cyclic vomiting syndrome. 

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN Headache 
2. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral Q12H:PRN 
3. Alyacen ___ (28) (norethindrone-ethin estradiol) ___ mg-mcg 
oral DAILY 

 
Discharge Medications:
1.  Alyacen ___ (28) (norethindrone-ethin estradiol) ___ 
mg-mcg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Nausea and vomiting secondary to possible cyclic vomiting 
syndrome
# History of migraines
# Abnormal stomach biopsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  

You were admitted with nausea and vomiting. You were seen by 
gastroenterology specialists and underwent an endoscopy.  This 
did not show a cause of your symptoms. 

You were treated with nausea medications and IV fluids, and you 
improved.  You are now ready for discharge home.

The GI doctors think ___ have a condition called "cyclic 
vomiting syndrome".  While the cause is not clear, some 
potential triggers include marijauna (most notably), alcohol, 
and NSAID antiinflammatory drugs such as ibuprofen and naproxen. 
 We recommend avoiding these in the future. (Note: because you 
have taken NSAIDs for migraines in the past, you should discuss 
with your primary care doctor and/or a neurologist whether 
Tylenol or another alternative medication might be sufficient.)

During your endoscopy, you had biopsies taken.  One biopsy 
returned showing an abnormal area called "focal intestinal 
metaplasia".  This finding is common, but in some cases can 
increase a person's risk of developing cancer in the future.  
The GI doctors recommended repeating ___ endoscopy and biopsy in 
___ year---they will contact you to arrange this.  We will make 
sure your primary care doctor is informed of these results as 
well. 
 
Followup Instructions:
___